US07485732B2
Step 3 3-[(1S)-1-(3,5-difluorophenyl)-2-methylpropyl]azetidine
A mixture of 250 mg (0.64 mmole) of 3-[(1R)-1-(3,5-difluorophenyl)-2-methylprop-2-en-1-yl]-1-(diphenylmethyl)azetidine and 50 mg of 10% Pd/C in 10 mL methanol and 2 mL of 1M HCl in ether was shaken under 40 psi H2. After 8 h, the solution was filtered and the filtrate was concentrated. The residue was triturated with hexane to remove diphenylmethane and the residue was collected to afford the title compound as a white solid; Mass Spectrum m/e=226 (M+1)

reactant | 3-[(1R)-1-(3,5-difluorophenyl)-2-methylprop-2-en-1-yl]-1-(diphenylmethyl)azetidine | 0.64 mmole, 250 mg | FC=1C=C(C=C(C1)F)[C@@H](C(=C)C)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25F2N
solvent | methanol | 10 mL | CO | CH4O
solvent | HCl | 1M, 2 mL | Cl | ClH
solvent | ether | CCOCC | C4H10O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-[(1S)-1-(3,5-difluorophenyl)-2-methylpropyl]azetidine | FC=1C=C(C=C(C1)F)[C@@H](C(C)C)C1CNC1 | C13H17F2N
